US04148757
14.55 g Bi(NO3)3.5H2O was dissolved in 100 ml. of a 10 percent HNO3 aqueous solution. 7.95 g of (NH4)Mo7O24.4H2O was dissolved in 100 ml. H2O with heating. The bismuth nitrate solution was then slowly added to the ammonium heptamolybdate solution with constant stirring. The pH was then adjusted to 2.5 to 3 by the addition of NH4OH. The mixture was stirred for about one hour, thereby yielding a bismuth molybdate slurry.

reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
reactant | bismuth nitrate | [N+](=O)([O-])[O-].[Bi+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | ammonium heptamolybdate | N.N.N.N.N.N.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.O.[Mo].[Mo].[Mo].[Mo].[Mo].[Mo].[Mo]
reactant | NH4OH | [NH4+].[OH-]
solvent | H2O | O | H2O
product | bismuth molybdate | [O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[Mo].[Mo].[Bi+3].[Bi+3] | InChI=1S/2Bi.2Mo.9O/q2*+3;;;9*-2
